US05393774
A solution of 32 g (0.21 mol) of 4'-methoxyacetophenone and 165 g (2.1 mol) of ammonium acetate in 450 ml of methanol is combined with 13.5 g (0.21 mol) of sodium cyanoborohydride, which is added in batches thereto at ambient temperature, with stirring. After a further 20 hours, ice is added and the mixture is acidified with hydrochloric acid (conc. HCl H2O=1/1) until the pH is 2. The acidic solution is extracted with dichloromethane. The aqueous phase is then mixed with conc. ammonia, with cooling, until a clearly alkaline reaction occurs and then extracted exhaustively with dichloromethane. The combined dichloromethane extracts are dried over sodium sulphate and evaporated to dryness in vacuo. The crude 2-(4-methoxyphenyl)-1-methylethylamine thus obtained is purified by column chromatography over silica gel (eluant: dichloro-methane/methanol=20/1) to remove any by-products. A colorless oil is obtained which can be used for reaction without any further purification.

reactant | 4'-methoxyacetophenone | 0.21 mol, 32 g | COC1=CC=C(C=C1)C(C)=O | C9H10O2
reactant | ammonium acetate | 2.1 mol, 165 g | C(C)(=O)[O-].[NH4+]
reactant | sodium cyanoborohydride | 0.21 mol, 13.5 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 450 ml | CO | CH4O
product | 2-(4-methoxyphenyl)-1-methylethylamine | COC1=CC=C(C=C1)CC(C)N | C10H15NO
